US03994908
To a solution of 4-(2-pyridyloxy)benzoyl chloride in ether, a solution of diazoethane in ether is added dropwise, and the reaction is effected as in Example 8 (2) to give 4-(2-pyridyloxy)-1-(2-diazopropionyl)benzene (4.72 g). This substance is recrystallized from ethyl acetate to give crystals melting at 101° to 102° C (decomp.). IR (CCl4): 2070, 1630, 1590 cm-1.

reactant | 4-(2-pyridyloxy)benzoyl chloride | N1=C(C=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C12H8ClNO2
reactant | diazoethane | [N+](=[N-])=CC | C2H4N2
solvent | ether | CCOCC | C4H10O
product | 4-(2-pyridyloxy)-1-(2-diazopropionyl)benzene | 4.72 g | N1=C(C=CC=C1)OC1=CC=C(C=C1)C(C(C)=[N+]=[N-])=O | C14H11N3O2
